US08212045B2
To 600 mL of DMF in a 4 neck 3000 mL round bottom flask equipped with an overhead stir mechanism under nitrogen was added 2-methylpyridin-3-ol (71.8 g, 658 mmol) and the reaction cooled to 2° C. 60% sodium hydride (26.3 g, 658 mmol) was added at such as rate that the internal temperature did not exceed 10° C. over a period of 30 minutes. The reaction was stirred while warming to ambient temperature for 1 hours. To the reaction was added 5-bromo-3-nitropicolinonitrile (150 g, 658 mmol) in a solution of 400 mL of DMF in two portions and the reaction held at ambient temperature for 1.5 hours. To the reaction at ambient temperature was added pyridine-2-thiol (73.1 g, 658 mmol) as a solid in portions and the reaction was stirred for 15 minutes to dissolve the material. The reaction was cooled to 3° C. and sodium hydride (26.3 g, 658 mmol) again was added in portions such that the internal temp did not go above 10° C. (35 minute addition time). The reaction was removed from the ice bath and warmed to ambient temperature while stirring for 12 hours. The reaction was diluted with 4 volumes (8 L) of brine. The mixture was stirred for 30 minutes, at which point solid formed. The solid was filtered off and filtrate extracted with MTBE (10 L total). The MTBE phase was concentrated in vacuo. The solid was combined with concentrated material and dissolved in ethyl acetate (3 L). The EtOAc was washed with brine (4×1 L), dried over MgSO4, filtered and concentrated in vacuo. The solid that formed was ground into a powder and dried in vacuo for 4 hours. The material was taken up in 30 mL of MTBE/10 g of product and the reaction was stirred for 30 minutes. The solid was filtered and dried in vacuo (2 hours). The solids were combined and dried for 3 hours in vacuo to yield 3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile (181 g, 85%)

reactant | 2-methylpyridin-3-ol | 658 mmol, 71.8 g | CC1=NC=CC=C1O | C6H7NO
reactant | sodium hydride | 658 mmol, 26.3 g | [H-].[Na+]
reactant | 5-bromo-3-nitropicolinonitrile | 658 mmol, 150 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | pyridine-2-thiol | 658 mmol, 73.1 g | N1=C(C=CC=C1)S | C5H5NS
reactant | sodium hydride | 658 mmol, 26.3 g | [H-].[Na+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | 3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile | 181 g, 85% | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C#N | C17H12N4OS
